US08937150B2
(S)-pyrrolidine-2-carboxamide hydrochloride salt
To (S)-tert-butyl 2-carbamoylpyrrolidine-1-carboxylate (29.8 g, 139 mmol) was added a solution of 4 N HCl in dioxane (209 mL, 836 mmol), and the resultant mixture was stirred at room temperature for 18 hours. The mixture was then concentrated and triturated with diethyl ether then vacuum filtered and dried under vacuum to provide 21.6 g (104%) of the title product as a colorless solid.

reactant | (S)-tert-butyl 2-carbamoylpyrrolidine-1-carboxylate | 139 mmol, 29.8 g | C(N)(=O)[C@H]1N(CCC1)C(=O)OC(C)(C)C | C10H18N2O3
reactant | HCl | 4 N | Cl | ClH
reactant | dioxane | 836 mmol, 209 mL | O1CCOCC1 | C4H8O2
product | (S)-pyrrolidine-2-carboxamide hydrochloride salt | 21.6 g, 104% | Cl.N1[C@@H](CCC1)C(=O)N | InChI=1S/C5H10N2O.ClH/c6-5(8)4-2-1-3-7-4;/h4,7H,1-3H2,(H2,6,8);1H/t4-;/m0./s1
